US08669361B2
To a 50 mL round bottom flask equipped with a stir bar was added 5-bromo-2-fluoro-3-methylphenylboronic acid (1.0 g, 4.3 mmol), N-methyliminodiacetic acid (0.76 g, 5.2 mmol), toluene (8 mL) and DMSO (2 mL). The flask was fitted with a Dean-Stark trap and the Dean-Stark trap was fitted with a reflux condenser. The mixture was heated to reflux with azeotropic removal of water for 4.5 h. The solution was concentrated in vacuo. The residue was absorbed on Celite in vacuo from an acetone suspension and the resulting powder was subjected to Isco flash chromatography eluted with 0 to 70% acetonitrile in ether to give 2-(5-bromo-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (1.26 g, 86%).

reactant | 5-bromo-2-fluoro-3-methylphenylboronic acid | 4.3 mmol, 1.0 g | BrC=1C=C(C(=C(C1)B(O)O)F)C | C7H7BBrFO2
reactant | N-methyliminodiacetic acid | 5.2 mmol, 0.76 g | CN(CC(=O)O)CC(=O)O | C5H9NO4
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(5-bromo-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 1.26 g, 86% | BrC=1C=C(C(=C(C1)B1OC(CN(CC(O1)=O)C)=O)F)C | C12H12BBrFNO4
